US08008350B2
i) 1,1′-dithiobis(2-fluorobenzene)
Sulfuryl chloride (0.7 ml) was added dropwise to a solution of 2-fluorobenzenethiol (1.5 ml) in DCM (20 ml) at 0° C. The reaction mixture was stirred for 30 min, then concentrated under reduced pressure. The residue was purified by chromatography on silica eluting with isohexane to give the sub-title compound as an oil, yield 1.7 g.

reactant | Sulfuryl chloride | 0.7 ml | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | 2-fluorobenzenethiol | 1.5 ml | FC1=C(C=CC=C1)S | C6H5FS
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 1,1′-dithiobis(2-fluorobenzene) | FC1=C(C=CC=C1)SSC1=C(C=CC=C1)F | C12H8F2S2
